US08202873B2
Combine 3-acetyl-6-methyl-4-oxoheptanoic acid ethyl ester (3.0 g, 13.1 mmol) and pyridin-2-yl-hydrazine (1.72 g, 15.72 mmol) in glacial acetic acid (25 mL) and stir at room temperature for 68 hr. Concentrate to an oil and partition the residue between ethyl acetate (150 mL) and saturated aqueous sodium bicarbonate solution (50 mL). Separate the organic layer, dry (sodium sulfate), filter and concentrate. Purify using silica gel chromatography, eluting with 90:10 hexanes:ethyl acetate, to give (3-isobutyl-5-methyl-1-pyridin-2-yl-1H-pyrazol-4-yl)-acetic acid ethyl ester (3.35 g, 85%). 1H-NMR (400 MHz, CDCl3) δ 8.38 (m, 1H), 7.77 (m, 2H), 7.13 (m, 1H), 4.12 (q, 2H), 3.41 (s, 2H), 2.98 (d, 2H), 2.27 (s, 3H), 1.82 (m, 1H), 1.22 (t, 3H), 0.80 (d, 6H).

reactant | 3-acetyl-6-methyl-4-oxoheptanoic acid ethyl ester | 13.1 mmol, 3.0 g | C(C)OC(CC(C(CC(C)C)=O)C(C)=O)=O | C12H20O4
reactant | pyridin-2-yl-hydrazine | 15.72 mmol, 1.72 g | N1=C(C=CC=C1)NN | C5H7N3
solvent | acetic acid | 25 mL | C(C)(=O)O | C2H4O2
product | (3-isobutyl-5-methyl-1-pyridin-2-yl-1H-pyrazol-4-yl)-acetic acid ethyl ester | 3.35 g, 85% | C(C)OC(CC=1C(=NN(C1C)C1=NC=CC=C1)CC(C)C)=O | C17H23N3O2
